US04788214
To a stirred, ice-cold solution of 1M borane in tetrahydrofuran (10 ml) was added, dropwise, a solution of 2 ml (1.64 g) of cyclohexene in 6 ml of dry tetrahydrofuran. The mixture was allowed to stir at 0°-5° C. for 1.5 hours. Tothe resulting slurry of dicyclohexylborane was added, dropwise a solution of 1.59 g of the allyl ether from Example 18 in 4 ml of tetrahydrofuran. The mixture was stirred at 0°-5° C. for 1 hour and at room temperature for 18 hours at which point 20 ml of 1M methanolic sodium acetate was added dropwise followed by 23.8 ml of 0.4M methanolic iodine. The resulting mixture was stirred at room temperature for 4 hours whereupon 3.1 ml of aqueous sodium thiosulfate was added. The reaction mixture was poured into water worked-up with ether in the usual manner. Chromatography of the crude product (4.4 g) on 100 g of silica gel afforded 1.71 g (76.7%) of racemic-3,4-dihydro-6-(3-iodopropoxy)2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetic acid methyl ester as an oil, eluted with 19:1 and 9:1 hexane-ethyl acetate.

reactant | borane | 1M | B | BH3
reactant | cyclohexene | 2 ml, 1.64 g | C1=CCCCC1 | C6H10
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | dicyclohexylborane | C1(CCCCC1)BC1CCCCC1 | C12H23B
